US07847100B2
A solution of tert-butyl((1R)-1-methyl-1-oxiran-2-yl-2-phenylethyl)carbamate (986 mg, 3.56 mmol) in EtOH (35 mL) and NH4OH (35 mL) was stirred at 60° C., sealed, for 16 h, concentrated in vacuo and purified by flash chromatography (silica, 0-30% (10% NH4OH/MeOH)/CH2Cl2) to provide tert-butyl ((1R)-3-amino-1-benzyl-2-hydroxy-1-methylpropyl)carbamate as a thick oil. 1H NMR (400 MHz, CD3OD, 1:1 diastereomeric mixture) δ 7.30-7.14 (m, 5H), 4.01 (br d, J=9.2 Hz, 0.5H), 3.54 (dd, J=10.0, 2 Hz, 0.5H), 3.39 (br s, 0.5H), 3.36 (br s, 0.5H), 2.94-2.56 (m, 4H), 1.47 (s, 9H), 1.03 (s, 1.5H), 0.99 (s, 1.5H).

reactant | tert-butyl((1R)-1-methyl-1-oxiran-2-yl-2-phenylethyl)carbamate | 3.56 mmol, 986 mg | C(C)(C)(C)OC(N[C@](CC1=CC=CC=C1)(C1OC1)C)=O | C16H23NO3
reactant | NH4OH | 35 mL | [NH4+].[OH-]
solvent | EtOH | 35 mL | CCO | C2H6O
product | tert-butyl ((1R)-3-amino-1-benzyl-2-hydroxy-1-methylpropyl)carbamate | NCC([C@@](C)(CC1=CC=CC=C1)NC(OC(C)(C)C)=O)O | C16H26N2O3
